US04308311
Terephthalic acid hydrazide, p-aminobenzoic acid hydrazide, p-phenylenediamine, p-aminobenzoyl chloride and terephthaloyl chloride are properly combined, and a 5 wt% solution of polyamide resin comprising 33 mol% of terephthalhydrazide, 33 mol% of p-benzamide, and 33 mol% of p-phenyleneterephthalamide is obtained by low temperature (about 10° to 35° C.) solution polymerization process. The solvent used for the solution polymerization is preferably dimethylacetamide and calcium chloride is contained in the polymerization solution as a neutralization product. This solution is cast on a metallic belt and dried until the polymer concentration becomes about 30 wt% by heating at about 100° C. for 5 minutes. The film is then dipped for about 2 minutes in water at normal temperatures (about 10° to 35° C.) to remove the solvent and calcium chloride. After further washing with water and drying at 230° C., the resulting film is rolled up. Orientation is conducted by stretching the dried film in the longitudinal direction in a 50° C. dimethylacetamide aqueous solution through the difference in rotating speeds of associated nip rolls, and subsequently stretching it in a lateral direction by guiding it to a tenter and expanding the rail distance. The draw ratio is generally kept from about 1.1 to 2.0 times in both longitudinal and lateral directions. Thus, a 3 μm thick aromatic polyamide film is obtained.

reactant | Terephthalic acid hydrazide | C(C1=CC=C(C(=O)O)C=C1)(=O)NN | C8H8N2O3
reactant | p-aminobenzoic acid hydrazide | NC1=CC=C(C(=O)NN)C=C1 | C7H9N3O
reactant | p-phenylenediamine | C1=CC(=CC=C1N)N | C6H8N2
reactant | p-aminobenzoyl chloride | NC1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO
reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
product | terephthalhydrazide | C(C1=CC=C(C(=O)NN)C=C1)(=O)NN | C8H10N4O2
